US09108926B2
1-Nitro-3-[(propan-2-ylsulfonyl)methyl]benzene
A solution of 1-nitro-3-[(propan-2-ylsulfanyl)methyl]benzene (4.0 g) in DCM (160 mL) was treated at 0° C. with portions of m-chloroperbenzoic acid (9.3 g, 77%). The mixture was stirred at 0° C. for further 30 minutes and then 18 hours at room temperature. The reaction mixture was diluted with DCM before sodium hydrogen sulfite and sodium bicarbonate solution was added and extracted with DCM (2×). The combined organic phases were washed and concentrated. The residue was purified by chromatography (hexane/ethyl acetate 12%-100%) to give the title compound (4.5 g).

reactant | 1-nitro-3-[(propan-2-ylsulfanyl)methyl]benzene | 4.0 g | [N+](=O)([O-])C1=CC(=CC=C1)CSC(C)C | C10H13NO2S
reactant | m-chloroperbenzoic acid | 9.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | DCM | 160 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Nitro-3-[(propan-2-ylsulfonyl)methyl]benzene | 4.5 g | [N+](=O)([O-])C1=CC(=CC=C1)CS(=O)(=O)C(C)C | C10H13NO4S
